US04622403
11-Oxo-2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f] thiepin-7-carboxylic acid
4-Carboxy-2-(5-indanylthio)phenylacetic acid (33.55 g, 0.102 mole) was added to trifluoroacetic acid (200 ml) and to the stirred suspension was added, slowly with stirring, trifluoroacetic anhydride (200 ml). After stirring the mixture for 48 hours at room temperature, the mixture was poured slowly onto ice (200 g), and the slurry was diluted to about 1 liter before collecting the crude product. The dried solid was stirred in suspension in acetonitrile for 45 minutes, refiltered and dried to yield 24.95 g.

reactant | 4-Carboxy-2-(5-indanylthio)phenylacetic acid | 0.102 mole, 33.55 g | C(=O)(O)C1=CC(=C(C=C1)CC(=O)O)SC=1C=C2CCCC2=CC1 | C18H16O4S
reactant | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroacetic anhydride | 200 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 11-Oxo-2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f] thiepin-7-carboxylic acid | O=C1CC2=C(SC3=C1C=C1CCCC1=C3)C=C(C=C2)C(=O)O | C18H14O3S
